### PR TITLE
Progress on Finalise_R

### PR DESCRIPTION
**Pull request by VictorPhan**

### CODE REVIEW

File: proof/refine/ARM/Finalise_R.thy [hunk 1]
```diff
@@ -4016,6 +4013,81 @@ lemma unbind_maybe_notification_corres:
   apply (clarsimp simp: valid_obj'_def valid_ntfn'_def split: option.splits)
   done
 
+lemma update_sched_context_corres:
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Finalise_R.thy:4016]: This is very similar to `update_sc_no_reply_stack_update_corres`. Did you want to move this lemma to where that one is, and maybe refactor things so that the existing lemma uses this one, if possible?

File: proof/refine/ARM/Finalise_R.thy [hunk 2]
```diff
@@ -4016,6 +4013,81 @@ lemma unbind_maybe_notification_corres:
...
+     apply (wpsimp simp: obj_at_def is_sc_obj_def)+
+    apply (wpsimp wp: get_sched_context_no_fail)
+   apply (clarsimp simp: obj_at_def is_sc_obj_def)
+  apply simp
+  done
+
+lemma sched_context_maybe_unbind_ntfn_corres:
+  "corres dc
+     (invs and ntfn_at ntfn_ptr)
+     (invs' and ntfn_at' ntfn_ptr)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Finalise_R.thy:4051]: You could use some sort of cross lemma to give you` ntfn_at'` in the concrete guard

File: proof/refine/ARM/Finalise_R.thy [hunk 3]
```diff
@@ -4016,6 +4013,81 @@ lemma unbind_maybe_notification_corres:
...
+               apply wpsimp+
+        apply (frule invs_valid_objs)
+        apply (frule (1) valid_objs_ko_at)
+        apply (clarsimp simp: invs_psp_aligned valid_obj_def valid_ntfn_def)
+       apply (clarsimp simp: valid_ntfn'_def ntfn_relation_def split: option.splits)
+       apply (drule_tac s="Some scAPtr" in sym)
+       apply (clarsimp simp: valid_ntfn'_def ntfn_relation_def sym_refs_asrt_def)
+       apply (frule (3) ntfnSc_sym_refsD[OF ko_at_obj_at', simplified])
+       apply normalise_obj_at'
+      apply (drule state_refs_of_cross_eq)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Finalise_R.thy:4086]: I'd be surprised if this `drule state_refs_of_cross_eq` were necessary. That should be part of `add_sym_refs`

File: proof/refine/ARM/Invariants_H.thy [hunk 4]
```diff
@@ -2762,6 +2762,11 @@ lemma valid_bound_reply_lift:
   \<lbrace>valid_bound_reply' tcb\<rbrace> f \<lbrace>\<lambda>_. valid_bound_reply' tcb\<rbrace>"
   by (auto simp: valid_bound_tcb'_def valid_def typ_ats'[symmetric] split: option.splits)
 
+lemma valid_bound_ntfn_lift:
+  "(\<And>T p. \<lbrace>typ_at' T p\<rbrace> f \<lbrace>\<lambda>_. typ_at' T p\<rbrace>) \<Longrightarrow>
+  \<lbrace>valid_bound_ntfn' ntfn\<rbrace> f \<lbrace>\<lambda>_. valid_bound_ntfn' ntfn\<rbrace>"
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Invariants_H.thy:2767]: Use invariant notation

File: proof/refine/ARM/Invariants_H.thy [hunk 5]
```diff
@@ -2773,6 +2778,11 @@ lemma valid_ntfn_lift':
   apply simp
   done
 
+lemma valid_sc_lift':
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Invariants_H.thy:2781]: These lifting lemmas are cool!

**Review by michaelmcinerney — APPROVED** [review]
Nice

File: proof/refine/ARM/Finalise_R.thy (hunk 1 above)
Comment (VictorPhan) [reply proof/refine/ARM/Finalise_R.thy:4016]: That's where I must have got this lemma! I forgot how this lemma came to be and don't remember writing it at all. I'll move it to `update_sc_no_reply_stack_update_corres` then and refactor.

File: proof/refine/ARM/Finalise_R.thy (hunk 2 above)
Comment (VictorPhan) [reply proof/refine/ARM/Finalise_R.thy:4051]: Is it good practice to have differing guards and using cross lemmas to get what we need for the sake of minimality?

File: proof/refine/ARM/Finalise_R.thy (hunk 3 above)
Comment (VictorPhan) [reply proof/refine/ARM/Finalise_R.thy:4086]: `add_sym_refs` doesn't work here, and even though I applied it earlier, I didn't get the fact I needed which I got from `state_refs_of_cross_eq`

File: proof/refine/ARM/Finalise_R.thy (hunk 2 above)
Comment (michaelmcinerney) [reply proof/refine/ARM/Finalise_R.thy:4051]: Big time

File: proof/refine/ARM/Finalise_R.thy (hunk 3 above)
Comment (michaelmcinerney) [reply proof/refine/ARM/Finalise_R.thy:4086]: So add_sym_refs does not add sym_refs to the concrete guard? It should be able to handle the fact that you’ve got invs in the abstract guard. Could you check?

**Comment by VictorPhan** [comment]
I have no idea why Refine is failing in github and can't really make out what the error is (the line quoted is different in my Isabelle session). I'll try rebasing and running it again.

File: proof/refine/ARM/Finalise_R.thy (hunk 1 above)
Comment (VictorPhan) [reply proof/refine/ARM/Finalise_R.thy:4016]: I've moved it there, but couldn't seem to refactor (just tried `corres_symb_exec_r` followed by `update_sched_context_corres` but this put the proof in a weird state for the first assumption). Might try again with someone's help.

File: proof/refine/ARM/KHeap_R.thy [hunk 6]
```diff
@@ -3502,6 +3500,38 @@ lemma ko_at'_cross:
               split: Structures_A.kernel_object.split_asm if_split_asm
                      ARM_A.arch_kernel_obj.split_asm)
 
+lemma update_sched_context_corres:
```
Comment (mktnk3) [inline proof/refine/ARM/KHeap_R.thy:3503]: I am not sure if we need this lemma, to be honest... I would think that unfolding `update_sched_context` and using `setSchedContext_no_stack_update_corres` directly for `set_object` and `setSchedContext` should do?

Comment (VictorPhan) [reply proof/refine/ARM/KHeap_R.thy:3503]: Yep, will try this once I've sorted out the `sched_context_unbind_ntfn` rule.

**Review by MitchellBuckley — APPROVED** [review]

**Review by corlewis — APPROVED** [review]

File: spec/haskell/src/SEL4/Object/SchedContext.lhs [hunk 7]
```diff
@@ -432,16 +432,16 @@ This module uses the C preprocessor to select a target architecture.
 >     case scNtfn sc of
 >         Nothing -> return ()
 >         Just ntfnPtr -> (\ntfn -> do
->             setSchedContext scPtr (sc { scNtfn = Nothing })
 >             n <- getNotification ntfn
->             setNotification ntfn (n { ntfnSc = Nothing })) ntfnPtr
+>             setNotification ntfn (n { ntfnSc = Nothing })
+>             setSchedContext scPtr (sc { scNtfn = Nothing })) ntfnPtr
```
[the remark this answers is not in the document]
Comment (VictorPhan) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs:437]: Yeah, I agree removing the anonymous function would be nicer.

File: proof/refine/ARM/KHeap_R.thy (hunk 6 above)
Comment (VictorPhan) [reply proof/refine/ARM/KHeap_R.thy]: Update: Miki and I have decided to keep this in but rename it to `update_sc_no_reply_stack_update_ko_at'_corres` and refactored the immediately following lemma `update_sc_no_reply_stack_update_corres` considerably using this lemma.

File: proof/refine/ARM/Finalise_R.thy (hunk 3 above)
Comment (VictorPhan) [reply proof/refine/ARM/Finalise_R.thy]: Sorted the schematic issues now, add_sym_refs work and we're not using this drule anymore

Comment (michaelmcinerney) [reply proof/refine/ARM/Finalise_R.thy]: Perfection

File: proof/refine/ARM/Finalise_R.thy [hunk 8]
```diff
@@ -3985,11 +3999,72 @@ lemma unbind_notification_corres:
                   split: option.splits)
   done
 
-lemma ntfn_at'_cross_rel:
-  "cross_rel (pspace_aligned and pspace_distinct and ntfn_at t) (ntfn_at' t)"
-  unfolding cross_rel_def state_relation_def
+lemma unbind_maybe_notification_corres:
+  "corres dc
+      (valid_objs and ntfn_at ntfnptr) (valid_objs' and ntfn_at' ntfnptr)
```
Comment (mktnk3) [inline proof/refine/ARM/Finalise_R.thy]: Since you wrote a nice cross lemma for `ntfn_at`, it would be nice to use it here :)

**Review by mktnk3 — APPROVED** [review]
It looks like you could put everything together and make it work nicely in the end, which is great!

File: proof/refine/ARM/Finalise_R.thy (hunk 8 above)
Comment (mktnk3) [reply proof/refine/ARM/Finalise_R.thy]: it looks like some tests are failing. Can you have a look later/tomorrow? Also, you need to rebase as well.

Comment (VictorPhan) [reply proof/refine/ARM/Finalise_R.thy]: I've removed `ntfn_at'` in the Haskell guard and used the cross lemma, but now `valid_objs/valid_objs'` will have to be changed to `invs/invs'` to use the cross lemma.

Comment (mktnk3) [reply proof/refine/ARM/Finalise_R.thy]: hmm. I am a bit surprised to hear that. It is unlikely that we need the whole of `invs`. Maybe just adding `pspace_aligned` and `pspace_distinct` should do?
